US07528136B2
[(2S,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-amino]-1-(3-chloro-benzyl)-pyrrolidin-2-yl]-[4-(2-methoxy-phenyl)-piperazin-1-yl]-methanone
As described for Example 64e, (2S,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-methyl-amino]-1-(3-chloro-benzyl)-pyrrolidine-2-carboxylic acid (1 mmol) was converted, using 1-(2-methoxy-phenyl)-piperazine instead of 2-cyclohexyl-1,3,8-triaza-spiro[4.5]dec-1-en-4-one, to the title compound (53.6 mg) in 8% yield as colorless oil.

reactant | (2S,4S)-4-[(3,5-bis-trifluoromethyl-benzyl)-methyl-amino]-1-(3-chloro-benzyl)-pyrrolidine-2-carboxylic acid | 1 mmol | FC(C=1C=C(CN([C@H]2C[C@H](N(C2)CC2=CC(=CC=C2)Cl)C(=O)O)C)C=C(C1)C(F)(F)F)(F)F | C22H21ClF6N2O2
reactant | 1-(2-methoxy-phenyl)-piperazine | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
product | [(2S,4S)-4-[(3,5-Bis-trifluoromethyl-benzyl)-methyl-amino]-1-(3-chloro-benzyl)-pyrrolidin-2-yl]-[4-(2-methoxy-phenyl)-piperazin-1-yl]-methanone | 53.6 mg, 8% yield | FC(C=1C=C(CN([C@H]2C[C@H](N(C2)CC2=CC(=CC=C2)Cl)C(=O)N2CCN(CC2)C2=C(C=CC=C2)OC)C)C=C(C1)C(F)(F)F)(F)F | C33H35ClF6N4O2
